US07728025B2
(Step 8) Production of (2-(2-(5-((2′-fluorobiphenyl-4-yl)oxy)-2-pyridin-2-yl-1H-benzimidazol-6-yl)pyrrolidin-1-yl)-2-oxoethyl)methylamine
19 mg of N-(t-butoxycarbonyl)-N-methylglycine and 24 mg of 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide monohydrochloride were added in order to a pyridin (1 ml) solution of 37 mg of 5-((2′-fluorobiphenyl-4-yl)oxy)-2-pyridin-2-yl-6-pyrrolidin-2-yl-1H-benzimidazole, and the reaction liquid was stirred at room temperature for 3 hours. 2 ml of 4 N hydrochloric acid-dioxane solution was added to the reaction liquid, and the reaction liquid was stirred at room temperature for 1 hour. The reaction liquid was diluted with chloroform, and made basic with aqueous saturated sodium carbonate added thereto, and the organic layer was washed with saturated saline and dried with anhydrous magnesium sulfate. The solvent was evaporated away under reduced pressure, and the resulting residue was purified through silica gel column chromatography (developing solvent: chloroform/methanol=10/1) to obtain the entitled compound as a pale yellow solid.

reactant | N-(t-butoxycarbonyl)-N-methylglycine | 19 mg | C(C)(C)(C)OC(=O)N(CC(=O)O)C | C8H15NO4
reactant | 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide monohydrochloride | 24 mg | Cl.CN(CCCN=C=NCC)C
reactant | 5-((2′-fluorobiphenyl-4-yl)oxy)-2-pyridin-2-yl-6-pyrrolidin-2-yl-1H-benzimidazole | 37 mg | FC1=C(C=CC=C1)C1=CC=C(C=C1)OC1=CC2=C(NC(=N2)C2=NC=CC=C2)C=C1C1NCCC1 | C28H23FN4O
reactant | hydrochloric acid dioxane | 4 N, 2 ml | Cl.O1CCOCC1
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
solvent | pyridin | 1 ml | N1=CC=CC=C1 | C5H5N
product | (2-(2-(5-((2′-fluorobiphenyl-4-yl)oxy)-2-pyridin-2-yl-1H-benzimidazol-6-yl)pyrrolidin-1-yl)-2-oxoethyl)methylamine | FC1=C(C=CC=C1)C1=CC=C(C=C1)OC1=CC2=C(NC(=N2)C2=NC=CC=C2)C=C1C1N(CCC1)C(CNC)=O | C31H28FN5O2
